US08865896B2
Step (i): [3-(Bromomethyl)phenyl]acetic acid
m-Tolylacetic acid (4.0 g, 26.64 mmol) and AIBN (α,α′-azobisisobutyronitrile) (0.044 g, 0.266 mmol) were dissolved in acetonitrile (11.9 g) and the solution was raised to 80° C. To this solution was dropped a solution of N-bromosuccinimide (4.98 g, 27.97 mmol) and AIBN (α,α′-azobisisobutyronitrile) (0.044 g, 0.266 mmol) in acetonitrile (32 g) for 1.5 hours. After stirring for 30 minutes the mixture was cooled to 50° C. and thereto was added butyl acetate (38.7 g). The mixture was concentrated to remove only acetonitrile. The resulting succinimide (crystal) was removed and the residue was washed three times with water. After concentrating to a desired concentration, thereto was added at 45° C. n-heptane (45.6 g) to produce a crystal. After cooling to 5° C., the crystal was filtered to give the sub-subject compound (3.76 g) as a white crystal. Yield: 62%

reactant | m-Tolylacetic acid | 26.64 mmol, 4.0 g | C1(=CC(=CC=C1)CC(=O)O)C | C9H10O2
reactant | N-bromosuccinimide | 27.97 mmol, 4.98 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | butyl acetate | 38.7 g | C(C)(=O)OCCCC | C6H12O2
solvent | acetonitrile | 11.9 g | C(C)#N | C2H3N
solvent | acetonitrile | 32 g | C(C)#N | C2H3N
catalyst | AIBN | 0.266 mmol, 0.044 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
catalyst | AIBN | 0.266 mmol, 0.044 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | [3-(Bromomethyl)phenyl]acetic acid | 3.76 g, Yield: 62% | BrCC=1C=C(C=CC1)CC(=O)O | C9H9BrO2
